US05084085
To a stirred mixture of 5.0 g (0.017 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one and 2.6 g (0.019 mole) of potassium carbonate in 25 mL of acetone was added 2.7 g (0.017 mole) of 2-chloro-5-nitropyridine. The mixture was stirred at room temperature for one hour, then was heated at reflux for two hours. The mixture was allowed to cool to room temperature and was stirred for approximately 18 hours. The reaction mixture was heated at reflux for an additional four hours, then cooled and stirred at room temperature for approximately 18 hours. The mixture was filtered, and the filtrate was evaporated under reduced pressure to leave an oily residue, which crystallized upon standing to give 7.0 g of 1-[4-chloro-2-fluoro-5-(5-nitropyridin-2-yloxy)phenyl]-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, m.p. 120°-123° C.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.017 mole, 5.0 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | potassium carbonate | 0.019 mole, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 0.017 mole, 2.7 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 1-[4-chloro-2-fluoro-5-(5-nitropyridin-2-yloxy)phenyl]-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 7.0 g | ClC1=CC(=C(C=C1OC1=NC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C)F | C15H9ClF3N5O4
